US07238720B2
a) 3-Benzylthio-1H-1,2,4-triazole
A solution of 3-mercapto-1H-1,2,4-triazole (100 mg) and benzyl bromide (118 μl) in dimethylformamide (2 ml) was stirred at room temperature for 23 hours. To the reaction mixture were added ethyl acetate and saturated aqueous sodium hydrogencarbonate solution at room temperature, and the resultant mixture was extracted once with ethyl acetate. The organic layer was washed three times with water and subsequently once with saturated aqueous sodium chloride solution, and then dried over anhydrous sodium sulfate. The residue was filtered off, and the solvent was distilled from the resulting filtrate under reduced pressure to yield the titled compound (172 mg) as white solids.

reactant | 3-mercapto-1H-1,2,4-triazole | 100 mg | SC1=NNC=N1 | C2H3N3S
reactant | benzyl bromide | 118 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-Benzylthio-1H-1,2,4-triazole | 172 mg | C(C1=CC=CC=C1)SC1=NNC=N1 | C9H9N3S
